US06403561B1
Preparation of Ethyl 2-azido-3-(2-ethoxyphenyl)propenoate
Pieces of sodium (3.678 g, 160 mmol) were added to ethanol (200 ml) over a period of 30 minutes. The resulting solution was cooled to −18° C. and a mixture of 2-ethoxybenzaldehyde (6.007 g, 40 mmol) and ethyl azidoacetate (160 mmol) was then added, over one hour, at a rate which allowed the temperature to be maintained below −15° C. After three hours, the solution was stored at 5° C. for two days in order to give a crystalline product which was collected and washed with cold hexane in order to give an off-white solid.

reactant | sodium | 160 mmol, 3.678 g | [Na] | Na
reactant | 2-ethoxybenzaldehyde | 40 mmol, 6.007 g | C(C)OC1=C(C=O)C=CC=C1 | C9H10O2
reactant | ethyl azidoacetate | 160 mmol | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl 2-azido-3-(2-ethoxyphenyl)propenoate | N(=[N+]=[N-])C(C(=O)OCC)=CC1=C(C=CC=C1)OCC | C13H15N3O3
